US09107916B2
A. (4-chloro-2-butoxyphenyl)methanol
Charged 5-chloro-2-(hydroxymethyl)phenol (965 mg, 6.09 mmol, PREPARATION 7), bromobutane (918 mmol, 6.70 mmol), K2CO3 (1.68 g, 12.19 mmol) and DMF (6 mL) to a sealed tube, and the mixture was heated to 100° C. overnight. After cooling to room temperature, the reaction mixture was poured into ice water, extracted with ethyl acetate twice, and the organic extract was washed with water, brine and dried with anhydrous Na2SO4. Solvent removed and the residue was purified by flash column chromatograph to give 600 mg of the title compound (46%). 1H NMR (300 MHz, CDCl3): δ 0.98 (3H, t, J=7.2 Hz), 1.46-1.56 (2H, m), 1.75-1.84 (2H, m), 2.23 (1H, t, J=6.0 Hz), 4.00 (2H, t, J=6.3 Hz), 4.64 (2H, d, J=6.3 Hz), 6.85 (1H, d, J=1.8 Hz), 6.91 (1H, dd, J=1.8 Hz, 8.1 Hz), 7.19 (1H, d, J=7.8 Hz).

reactant | 5-chloro-2-(hydroxymethyl)phenol | 6.09 mmol, 965 mg | ClC=1C=CC(=C(C1)O)CO | C7H7ClO2
reactant | bromobutane | 918 mmol | BrCCCC | C4H9Br
reactant | K2CO3 | 12.19 mmol, 1.68 g | C(=O)([O-])[O-].[K+].[K+]
solvent | DMF | 6 mL | CN(C)C=O | C3H7NO
product | (4-chloro-2-butoxyphenyl)methanol | 600 mg, 46% | ClC1=CC(=C(C=C1)CO)OCCCC | C11H15ClO2
